US04659718
A solution of butyl lithium in hexane (2.7M, 9.8 ml) was added to a stirred solution of 1,5-dimethyltetrazole (2.6 g) in dry tetrahydrofuran (25 ml) at 0° under nitrogen. After 1 hour, 6,7-dimethyl-1H-3,1-benzoxazine-2,4-dione (1.69 g) was added and stirring was continued for 4 hours. The mixture was poured into water (200 ml), acidified with hydrochloric acid (5N) to pH 1, neutralised with aqueous sodium hydroxide (5N) and extracted with dichloromethane (3×100 ml). The combined extracts were dried and evaporated under reduced pressure. The residue was triturated with water to give a yellow solid which was collected by filtration and dried to give the novel compound 1-(2-amino-4,5-dimethylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone, m.p. 162°-165°.

reactant | butyl lithium | C(CCC)[Li]
reactant | 1,5-dimethyltetrazole | 2.6 g | CN1N=NN=C1C | C3H6N4
reactant | 6,7-dimethyl-1H-3,1-benzoxazine-2,4-dione | 1.69 g | CC=1C(=CC2=C(C(OC(N2)=O)=O)C1)C | C10H9NO3
reactant | hydrochloric acid | 5N | Cl | ClH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | hexane | 2.7M, 9.8 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 1-(2-amino-4,5-dimethylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone | NC1=C(C=C(C(=C1)C)C)C(CC1=NN=NN1C)=O | C12H15N5O
